US06114532
e. (4-benzenesulphonyl-2-nitro-phenyl)-N-methylamine
7.2 g (19.4 mmol) of N-(4-benzenesulphonyl-2-nitro-phenyl)-N-methyl-methanesulphonamide are heated to 130° C. in 70 ml conc. sulphuric acid for 15 minutes. Then the mixture is poured onto ice water, the precipitate formed is suction filtered, washed with water and dried.

reactant | N-(4-benzenesulphonyl-2-nitro-phenyl)-N-methyl-methanesulphonamide | 19.4 mmol, 7.2 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)N(S(=O)(=O)C)C)[N+](=O)[O-] | C14H14N2O6S2
solvent | sulphuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | (4-benzenesulphonyl-2-nitro-phenyl)-N-methylamine | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)NC)[N+](=O)[O-] | C13H12N2O4S
